US04914202
Borane-methyl sulphide (2.15 g, 2.7 ml, 4 equivs.) was added dropwise, under nitrogen, to a stirred solution of N-[1,1-dimethylethyl]-3-chloro-α-hydroxybenzene acetamide (1.71 g) in dry tetrahydrofuran. The resulting solution was stirred and heated under reflux for 2 h., cooled, and treated with methanol (1 ml). The reaction mixture was heated under reflux for 1 h., cooled, treated with methanolic hydrogen chloride, and the solvent evaporated to give 3-chloro-α-[[[1,1-dimethylethyl]amino]methyl]benzenemethanol hydrochloride salt, 1.5 g, m.p. 165°-175° C.

reactant | Borane methyl sulphide | 2.7 ml, 2.15 g | B.CSC
reactant | N-[1,1-dimethylethyl]-3-chloro-α-hydroxybenzene acetamide | 1.71 g | CC(C)(C)NC(C(C1=CC(=CC=C1)Cl)O)=O | C12H16ClNO2
reactant | methanol | 1 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-chloro-α-[[[1,1-dimethylethyl]amino]methyl]benzenemethanol hydrochloride salt | Cl.ClC=1C=C(C=CC1)C(O)CNC(C)(C)C | InChI=1S/C12H18ClNO.ClH/c1-12(2,3)14-8-11(15)9-5-4-6-10(13)7-9;/h4-7,11,14-15H,8H2,1-3H3;1H
